US05698692
To the solution of 4-(p-methoxybenzyl)oxybenzonitrile (7.18 g) in pyridine (100 ml) was added triethylamine (20 ml), and hydrogen sulfide gas was streamed 30 minutes. The mixture was stirred at room temperature for 3 hours followed by 50° C. overnight. After the solvent was evaporated under reduced pressure, the residue was taken into ether, and crystals were collected by filtration and dried to give 8.05 g of 4-(p-methoxybenzyl)oxythiobenzamide (yield, 98%).

reactant | 4-(p-methoxybenzyl)oxybenzonitrile | 7.18 g | COC1=CC=C(COC2=CC=C(C#N)C=C2)C=C1 | C15H13NO2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(p-methoxybenzyl)oxythiobenzamide | 8.05 g, 98% | COC1=CC=C(COC2=CC=C(C(=S)N)C=C2)C=C1 | C15H15NO2S
